US08426402B2
2-(pyridin-2-yldisulfanyl)ethanamine
tert-Butyl 2-(pyridin-2-yldisulfanyl)ethylcarbamate (1.06 g, 3.70 mmol) in 16 ml of EtAc was added 4.0 ml of HCl (conc.) at RT. The mixture was stirred at RT for 0.5 h, diluted with ethanol/toluene (6 ml, 1:1), evaporated and co-evaporated with ethanol/toluene (3×10 ml), crystallized with ethanol/EtAc/Hexane, filtered, and dried over a vaccum to afford 135 mg (88%) of the title compound. 1H NMR (CD3OD) 7.58 (m, 1H), 7.47 (m, 1H), 7.06 (m, 1H), 6.83 (m, 1H), 3.34 (m, 2H), 3.02 (m, 2H); 13C NMR 158.69, 149.07, 137.81, 122.48, 120.98, 39.52, 36.94; MS m/z+ 187.10 (M+H).

reactant | tert-Butyl 2-(pyridin-2-yldisulfanyl)ethylcarbamate | 3.70 mmol, 1.06 g | N1=C(C=CC=C1)SSCCNC(OC(C)(C)C)=O | C12H18N2O2S2
reactant | HCl | 4.0 ml | Cl | ClH
solvent | ethanol toluene | 6 ml | C(C)O.C1(=CC=CC=C1)C
product | 2-(pyridin-2-yldisulfanyl)ethanamine | 135 mg, 88% | N1=C(C=CC=C1)SSCCN | C7H10N2S2
